US04000192
a. 5-(N,N-Dibenzylglycyl)-2-[2-(2-ethoxyethoxy)ethoxy] benzamide
A solution of 5-(N,N-dibenzylglycyl)salicylamide (10 g.) in dimethylformamide (75 ml) was added dropwise to a stirred suspension of sodium hydride (0.875 g) in dimethylformamide (25 ml). 2-(2 -Ethoxyethoxy)ethyl p-toluenesulphonate (12.75 g) was then added and the solution heated at 100° for 2 hours. The solvent was evaporated to give a yellow oily solid which was partitioned between ethyl acetate and water. The ethyl acetate layer was dried (MgSO4), concentrated to 30 ml and chromatographed on alumina (60 g.). The column was eluted with ethyl acetate (100 ml portions). The first fraction was discarded and the subsequent four fractions yielded an oil (12.2 g) which crystallised from ethanol to give the ether as colourless plates (5.8 g) m.p. 91.5°-92.5°. Recrystallisation of a sample raised the m.p. to 92.5°-94°.

reactant | 5-(N,N-dibenzylglycyl)salicylamide | 10 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | sodium hydride | 0.875 g | [H-].[Na+]
reactant | 2-(2 -Ethoxyethoxy)ethyl p-toluenesulphonate | 12.75 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCCOCC)C | C13H20O5S
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-(N,N-Dibenzylglycyl)-2-[2-(2-ethoxyethoxy)ethoxy] benzamide | 12.2 g | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCOCCOCC)CC1=CC=CC=C1 | C29H34N2O5
